US09388161B2
A 400-mL Parr bottle charged with (R)-4-(2-(methoxymethoxy)-6-nitrophenyl)but-3-yn-2-ol (2.9 g, 11.54 mmol), methanol (58 mL), and 10% palladium on carbon (50% water, 1.228 g, 0.577 mmol) was pressurized to 39 psig with hydrogen and then shaken. Hydrogen was quickly consumed, and within 15 min, the pressure had dropped to 0 psig. The bottle was re-pressurized to 39 psig and shaking was continued. The pressure dropped to ca. 20 psig over the next 15 min and stabilized. The bottle was re-pressurized to 34 psig and held there with continued shaking for 2 h. The mixture was flushed with nitrogen, and then filtered through a pad of Celite. The bottle and catalyst were rinsed with methanol, and the filtrate concentrated under reduced pressure. Toluene was added and the mixture was concentrated to afford (R)-4-(2-amino-6-(methoxymethoxy)phenyl)butan-2-ol (2.60 g, 100%) as a dark yellow syrup which was used without further purification. MS (ESI, pos. ion) m/z 248 [M+23]+.

reactant | (R)-4-(2-(methoxymethoxy)-6-nitrophenyl)but-3-yn-2-ol | 11.54 mmol, 2.9 g | COCOC1=C(C(=CC=C1)[N+](=O)[O-])C#C[C@@H](C)O | C12H13NO5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.577 mmol, 1.228 g | [Pd] | Pd
solvent | methanol | 58 mL | CO | CH4O
product | (R)-4-(2-amino-6-(methoxymethoxy)phenyl)butan-2-ol | 2.60 g, 100% | NC1=C(C(=CC=C1)OCOC)CC[C@@H](C)O | C12H19NO3
